US04977159
2-[(1-Benzoyl-4-piperidyl)methyl]-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole
2.7 g (10 mmol) of 2-[(piperidyl)methyl]-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole, 30 ml of chloroform and 1.6. ml (11 mmol) of triethylamine are introduced under an argon atmosphere into a Keller flask. 1.546 g (11 mmol) of benzoyl chloride dissolved in 100 ml of chloroform are added, and the mixture is stirred at 20° C. for 48 H. The solvent is evaporated off under reduced pressure, and the residue is taken up with water, filtered off, dissolved in ethyl acetate and treated with activated charcoal. After filtration, the solvent is evaporated off under reduced pressure and the residue crystallized in isopropyl ether and recrystallized in acetonitrile. 1.8 g of white solid are obtained. Melting point: 161.5°-163.5° C.

reactant | 2-[(piperidyl)methyl]-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 10 mmol, 2.7 g | N1(CCCCC1)CN1CC=2NC3=CC=CC=C3C2CC1 | C17H23N3
reactant | triethylamine | ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 11 mmol, 1.546 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[(1-Benzoyl-4-piperidyl)methyl]-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 1.8 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CN1CC=2NC3=CC=CC=C3C2CC1 | C24H27N3O
